US07112582B2
Step 5; 2-Formyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazine-5-carboxylic acid 4-nitrobenzyl ester
MnO2 (activated) (84.2 g) was added to the CHCl3-MeOH (95:5, 253 mL) solution of 2-hydroxymethyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazine-5-carboxylic acid 4-nitrobenzyl ester (8.42 g), and the mixture was refluxed for 1 h under a nitrogen atmosphere. The reaction mixture was filtered through a pad of Celite. Silica-gel (20 g) was added to the filtrate and the solvent was removed under reduced pressure to give the silica-gel coating with crude reactant. The above silica-gel was adsorbed to silica-gel column chromatography and the column was eluted with CHCl3-MeOH (49/1 to 19/1). The titled compound was obtained as yellow crystals (2.82 g, 34%).

reactant | 2-hydroxymethyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazine-5-carboxylic acid 4-nitrobenzyl ester | 8.42 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2CC=3N(CC2)N=C(C3)CO)C=C1 | C15H16N4O5
catalyst | MnO2 | 84.2 g | O=[Mn]=O
solvent | CHCl3 MeOH | 253 mL | C(Cl)(Cl)Cl.CO
product | 2-Formyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazine-5-carboxylic acid 4-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)N2CC=3N(CC2)N=C(C3)C=O)C=C1 | C15H14N4O5
